US05547983
a) 3-(1-methylcyclohexyl)-4-tert-butyldimethylsilyloxyphenylethanone
28.82 g (0.083 mol) of 3-(1-methylcyclohexyl)-4-tert-butyldimethylsilyloxybenzoic acid, in 300 ml ether, are treated at -20° C. under nitrogen, with 0.166 mol of methyllithium (1.6M in ether). The reaction mixture is stirred under nitrogen overnight and it is then treated as for Example 25(a). After filtration of the residue on silica, 22 g (76%) of the expected product are isolated in the form of a yellow oil.

reactant | 3-(1-methylcyclohexyl)-4-tert-butyldimethylsilyloxybenzoic acid | 0.083 mol, 28.82 g | CC1(CCCCC1)C=1C=C(C(=O)O)C=CC1O[Si](C)(C)C(C)(C)C | C20H32O3Si
reactant | methyllithium | 0.166 mol, 1.6M | C[Li]
solvent | ether | 300 ml | CCOCC | C4H10O
product | 3-(1-methylcyclohexyl)-4-tert-butyldimethylsilyloxyphenylethanone | CC1(CCCCC1)C=1C=C(C=CC1O[Si](C)(C)C(C)(C)C)C(C)=O | C21H34O2Si
